US07507734B2
50 mg 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-methyl-indole-1-carboxylic acid tert-butyl ester is dissolved in 0.75 ml ethanol and 0.75 ml 1N aqueous NaOH solution. The reaction mixture is stirred at 150° C. in microwave apparatus (200 W). The solution is neutralized by addition of 1N HCl, the solvent removed under reduced pressure and the crude product purified by HPLC chromatography (RP18 column, acetonitrile/water, 0.05% HCOOH) yielding 21.1 mg 4-(3-Methyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one.

reactant | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-methyl-indole-1-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC=C12)C)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C24H24N4O3
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 0.75 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 0.75 ml | [OH-].[Na+]
product | 4-(3-Methyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | 21.1 mg | CC1=C(NC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C18H14N4O
